### ISSUE TITLE
Incrementality causes a weird error

### ISSUE THREAD

**Issue by BrunoDutertre** [leanprover/lean4#5076]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

In VScode, the kernel complains of an invalid proof term in the example below (I couldn't reduce it more).
```
(kernel) declaration has metavariables 'PFormula.nnf_of_pos_produces_nnf'
```

The error disappears on "Restart File" or after any small edit to the file. It reappears when the proof is modified.

```lean
inductive PFormula (α: Type): Type where
  | And: Array (PFormula α) → PFormula α
  | Or: Array (PFormula α) → PFormula α
  | Not: (PFormula α) → PFormula α
  | Atom: α → PFormula α

namespace PFormula

/-
Negative normal form
-/
def is_atom (f: PFormula α): Prop :=
  match f with
  | .Atom _ => True
  | _ => False

def is_nnf (f: PFormula α): Prop :=
  match f with
  | .And a | .Or a => all_nnf a
  | .Not g => g.is_atom
  | .Atom _ => True
where
  all_nnf (a: Array (PFormula α)): Prop := ∀ i, (k: i < a.size) → a[i].is_nnf

mutual
-- convert f to negative normal form
def nnf_of_pos (f: PFormula α): PFormula α :=
  match f with
  | .And a => And (a.mapIdx (fun i _ => nnf_of_pos a[i]))
  | .Or a => Or (a.mapIdx (fun i _ => nnf_of_pos a[i]))
  | .Not g => nnf_of_neg g
  | .Atom x => Atom x

-- convert (not f) to negative normal form
def nnf_of_neg (f: PFormula α): PFormula α :=
  match f with
  | .And a => Or (a.mapIdx (fun i _ => nnf_of_neg a[i]))
  | .Or a => And (a.mapIdx (fun i _ => nnf_of_neg a[i]))
  | .Not g => nnf_of_pos g
  | .Atom x => Not (Atom x)
end

theorem nnf_of_pos_produces_nnf {f: PFormula α}: is_nnf (nnf_of_pos f) := by
  induction f using nnf_of_pos.induct (motive2 := fun g => is_nnf (nnf_of_neg g))
  case case1 a ih | case2 a ih =>
    simp [nnf_of_pos, is_nnf, is_nnf.all_nnf]
    intro i h
    exact ih ⟨i, h⟩
  case case3 g ih =>
    simp only [nnf_of_pos]
    exact ih
  case case4 =>
    simp [nnf_of_pos, is_nnf]
  case case5 a ih | case6 a ih =>
    simp [nnf_of_neg, is_nnf, is_nnf.all_nnf]
    intro i h
    exact ih ⟨i, h⟩
  case case7 g  ih =>
    simp only [nnf_of_neg]
    exact ih
  case case8 =>
    simp [nnf_of_neg, is_nnf, is_atom]

end PFormula
```

### Context

Talked with @leodemoura about this and he suspects that this is caused by incrementality.

### Steps to Reproduce

It's a bit finicky but this might work
1. Load the example in vscode
2. If the error is not there. Comment out the `case7` in the proof then put it back in.
3. Restarting lean on the file should make the error disappear.

### Versions

4.10.0

### Additional Information

[Additional information, configuration or data that might be necessary to reproduce the issue]

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
